US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-(1,5-dimethyl-1H-pyrazol-3-ylmethyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione
The title compound, MS: m/e=627.1 (M+), was prepared in accordance with the general method of example 121 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione and 1,5 -dimethylpyrazole-3-methanol.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=C(C=CC=C3)Cl)=O)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H16ClF6N3O3
reactant | 1,5 -dimethylpyrazole-3-methanol | CN1N=C(C=C1C)CO | C6H10N2O
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-(1,5-dimethyl-1H-pyrazol-3-ylmethyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=C(C=CC=C3)Cl)=O)CC3=NN(C(=C3)C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C28H24ClF6N5O3
